US07442790B2
Method F: (2R)-2-(2-Carbazol-9-yl-2-oxo-ethyl)-pentanoic acid
A stirred solution of (2R)-2-(2-Carbazol-9-yl-2-oxo-ethyl)-pentanoic acid benzyl ester (4.50 g, 11.26 mmol) in EtOAc (60 mL) was treated with 10% Pd on carbon (˜400 mg) and the reaction mixture then placed under an atmosphere of hydrogen. After 1 h further 10% Pd on carbon (˜300 mg) was added and the reaction mixture was placed under hydrogen, with stirring, for a further 3 h after which the reaction mixture was filtered through a celite pad and concentrated to give the sub-title compound (2.94 g, 84%) as a white solid which also contained carbazole: 1H NMR (400 MHz, CDCl3) δ 0.92-1.04 (3H, m), 1.32-2.00 (4H, m), 3.19-3.34 (2H, m), 3.58-3.70 (1H, m), 7.30-7.53 (4H, m), 8.00-8.30 (4H, m).

reactant | (2R)-2-(2-Carbazol-9-yl-2-oxo-ethyl)-pentanoic acid benzyl ester | 11.26 mmol, 4.50 g | C(C1=CC=CC=C1)OC([C@H](CCC)CC(=O)N1C2=CC=CC=C2C=2C=CC=CC12)=O | C26H25NO3
solvent | EtOAc | 60 mL | CCOC(=O)C | C4H8O2
catalyst | Pd on carbon | ˜400 mg | [Pd] | Pd
catalyst | Pd on carbon | ˜300 mg | [Pd] | Pd
product | (2R)-2-(2-Carbazol-9-yl-2-oxo-ethyl)-pentanoic acid | 2.94 g, 84% | C1=CC=CC=2C3=CC=CC=C3N(C12)C(C[C@H](C(=O)O)CCC)=O | C19H19NO3
